US07951805B2
6-[4-(2-TRIFLUOROMETHYLPHENOXYMETHYL)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
To a stirred solution of 6-(4-hydroxymethylpiperidin-1-yl)pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide (0.275 g, 0.90 mmol) in THF (10 mL) was added 2-hydroxybenzotrifluoride (0.178 g, 1.10 mmol), triphenylphosphine (0.289 g, 1.100 mmol) and diethyl azocarboxylate (0.5 mL, 1.10 mmol). The resulting mixture was stirred at ambient temperature for 18 hours. The solvent was removed in vacuo and the obtained crude product was purified by column chromatography to yield the title compound in 40% yield (0.035 g). 1H NMR (300 MHz, CDCl3) δ 7.98 (d, J=9.9 Hz, 2H), 7.54 (d, J=7.9 Hz, 1H), 7.47-7.42 (m, 1H), 6.99-6.92 (m, 3H), 4.57-4.53 (m, 2H), 3.89 (d, J=5.9 Hz, 2H), 3.56-3.49 (m, 2H), 3.11-3.02 (m, 2H), 2.25-2.15 (m, 1H), 2.01-1.97 (m, 2H), 1.52-1.41 (m, 2H), 1.27-1.20 (m, 2H), 0.75-0.68 (m, 1H), 0.47-0.41 (m, 2H), 0.09-0.05 (m, 2H). 13C NMR (75 MHz, CDCl3) δ 163.3, 160.0, 156.7, 144.3, 133.3, 127.2, 127.1, 126.8, 125.5, 120.1, 112.5, 112.2, 72.6, 44.9, 39.6, 36.1, 34.6, 28.2, 8.7, 4.2. MS (ES+) m/z 449 (M+1).

reactant | 6-(4-hydroxymethylpiperidin-1-yl)pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | 0.90 mmol, 0.275 g | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)CO | C16H24N4O2
reactant | 2-hydroxybenzotrifluoride | 1.10 mmol, 0.178 g | OC1=C(C=CC=C1)C(F)(F)F | C7H5F3O
reactant | triphenylphosphine | 1.100 mmol, 0.289 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azocarboxylate | 1.10 mmol, 0.5 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-[4-(2-TRIFLUOROMETHYLPHENOXYMETHYL)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | 40% yield | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)COC1=C(C=CC=C1)C(F)(F)F | C23H27F3N4O2
